US06573402B1
By following the similar procedure in Synthesis Example 1 by using 5-aminosalicylic acid (2.00 g, 13.0 mmole) and 4-nitrobenzyl bromide (3.38 g, 15.6 mmole), 2.90 g (79% yield) of 5-(4-nitrobenzyl)aminosalicylic acid was obtained as a pale yellow solid.: mp 211-212° C.

reactant | 5-aminosalicylic acid | 13.0 mmole, 2.00 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | 4-nitrobenzyl bromide | 15.6 mmole, 3.38 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 5-(4-nitrobenzyl)aminosalicylic acid | 2.90 g, 79% yield | [N+](=O)([O-])C1=CC=C(CNC2=CC=C(C(C(=O)O)=C2)O)C=C1 | C14H12N2O5
